US09232799B2
At ambient temperature, a solution of 74 mg (0.35 mmol) of 3-(difluoromethyl)-5-fluoro-1-methyl-1H-pyrazole-4-carbonyl chloride in 2 ml of tetrahydrofurane is added dropwise to a solution of 100 mg (0.317 mmol) of N-{1-[3-chloro-5-(trifluoromethyl)pyridin-2-yl]propan-2-yl}cyclopropanamine and 0.137 ml (0.984 mmol) of triethylamine in 3 ml of tetrahydrofurane. The reaction mixture is stirred for 15 hrs at ambient temperature. The solvent is removed under vacuum and 50 ml of water are then added to the residue. The watery layer is extracted twice with ethyl acetate (2×25 ml) and the combined organic layers are successively washed by a 1 N solution of HCl, a saturated solution of potassium carbonate and brine and dried over magnesium sulfate to yield after concentration 131 mg of an oil. Column chromatography on silica gel (gradient heptane/ethyl acetate) yields 72 mg (47% yield) of N-{1-[3-chloro-5-(trifluoromethyl)pyridin-2-yl]propan-2-yl}-N-cyclopropyl-3-(difluoromethyl)-5-fluoro-1-methyl-1H-pyrazole-4-carboxamide as a colorless oil (M+H=455).

reactant | 3-(difluoromethyl)-5-fluoro-1-methyl-1H-pyrazole-4-carbonyl chloride | 0.35 mmol, 74 mg | FC(C1=NN(C(=C1C(=O)Cl)F)C)F | C6H4ClF3N2O
reactant | N-{1-[3-chloro-5-(trifluoromethyl)pyridin-2-yl]propan-2-yl}cyclopropanamine | 0.317 mmol, 100 mg | ClC=1C(=NC=C(C1)C(F)(F)F)CC(C)NC1CC1 | C12H14ClF3N2
reactant | triethylamine | 0.984 mmol, 0.137 ml | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofurane | 2 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofurane | 3 ml | O1CCCC1 | C4H8O
product | N-{1-[3-chloro-5-(trifluoromethyl)pyridin-2-yl]propan-2-yl}-N-cyclopropyl-3-(difluoromethyl)-5-fluoro-1-methyl-1H-pyrazole-4-carboxamide | 72 mg, 47% yield | ClC=1C(=NC=C(C1)C(F)(F)F)CC(C)N(C(=O)C=1C(=NN(C1F)C)C(F)F)C1CC1 | C18H17ClF6N4O
